US05362725
3(a) Ethyl (S)-(1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino [1,2-a]azepin-2-yl)carboxylate
A solution of 5.52 g of (S)-1,2,3,4,10,14b-hexahydro-2-methyldibenzo[c,f]pyrazino[1,2-a]azepine (prepared as described in preparation 6) in 30 ml of toluene was added dropwise to a solution of 6.8 g of ethyl chloroformate in 50 ml of toluene at 80° C. over a period of 10 minutes, and the mixture was heated under reflux for 3hours. At the end of this time, the crystals which precipitated were removed by filtration, and solvent was removed from the filtrate by evaporation under reduced pressure, to give 6.57 g (yield 98%) of the title compound as a pale yellow oil.

reactant | (S)-1,2,3,4,10,14b-hexahydro-2-methyldibenzo[c,f]pyrazino[1,2-a]azepine | 5.52 g | CN1C[C@H]2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1 | C18H20N2
reactant | ethyl chloroformate | 6.8 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl (S)-(1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino [1,2-a]azepin-2-yl)carboxylate | 6.57 g, yield 98% | C1N(CCN2[C@H]1C1=C(CC3=C2C=CC=C3)C=CC=C1)C(=O)OCC | C20H22N2O2
